US07101899B1
4-(3-methylphenyl)-2-(4-methylsulfonylphenyl)-5-(2-phenylsulfonyl-4-pyridyl)-1,3-thiazole
To a solution of 4-(3-methylphenyl)-2-(4-methylsulfonylphenyl)-5-(2-phenylthio-4-pyridyl)-1,3-thiazole (0.48 g, 0.93 mmol) in N,N-dimethylformamide (10 mL) was added m-chloroperbenzoic acid (0.51 g, 2.4 mmol) and the mixture was stirred at room temperature for 1 hour. An 8N aqueous solution of sodium hydroxide was added to the reaction mixture and the resulting solid was collected by filtration. The solid was recrystallized from ethanol to obtain 0.42 g (yield 82%) of the title compound.

reactant | 4-(3-methylphenyl)-2-(4-methylsulfonylphenyl)-5-(2-phenylthio-4-pyridyl)-1,3-thiazole | 0.93 mmol, 0.48 g | CC=1C=C(C=CC1)C=1N=C(SC1C1=CC(=NC=C1)SC1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)C | C28H22N2O2S3
reactant | m-chloroperbenzoic acid | 2.4 mmol, 0.51 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(3-methylphenyl)-2-(4-methylsulfonylphenyl)-5-(2-phenylsulfonyl-4-pyridyl)-1,3-thiazole | 0.42 g, yield 82% | CC=1C=C(C=CC1)C=1N=C(SC1C1=CC(=NC=C1)S(=O)(=O)C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)C | C28H22N2O4S3
